US07105671B2
A solution of 2-(3-chloro-4-methylsulfonyl-phenyl)-3-(4-oxo-cyclohexyl)-propionic acid methyl ester (590 mg, 1.58 mmol) in methanol (7.0 mL) and water (3.0 mL) was treated with lithium hydroxide (980 mg, 31.6 mmol). The reaction mixture was stirred at 25° C. for 2 h and then concentrated in vacuo to remove methanol. The remaining aqueous layer was diluted with water (25 mL) and washed with ethyl acetate (2×50 mL). The aqueous layer was then acidified to pH=3 with a 1N aqueous hydrochloric acid solution and was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford pure 2-(3-chloro-4-methylsulfonyl-phenyl)-3-(4-oxo-cyclohexyl)-propionic acid (550 mg, 97%) as a colorless gum: EI-HRMS m/e calcd for C16H19ClO5S (M+Na)+ 381.0534, found 381.0537.

reactant | 2-(3-chloro-4-methylsulfonyl-phenyl)-3-(4-oxo-cyclohexyl)-propionic acid methyl ester | 1.58 mmol, 590 mg | COC(C(CC1CCC(CC1)=O)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C17H21ClO5S
reactant | lithium hydroxide | 31.6 mmol, 980 mg | [OH-].[Li+]
solvent | methanol | 7.0 mL | CO | CH4O
solvent | water | 3.0 mL | O | H2O
product | 2-(3-chloro-4-methylsulfonyl-phenyl)-3-(4-oxo-cyclohexyl)-propionic acid | 550 mg, 97% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CCC(CC1)=O | C16H19ClO5S
